US04012377
trans-5-Methyl-3-p-nitrostyryl-1,2,4-oxadiazole.
A suspension of p-nitrocinnamamidoxime (20.7 g.) in acetic anhydride (70 ml.) was heated on a steam-bath for one hour when solution occurred. The cooled solution was neutralized with saturated sodium carbonate solution and the precipitated solid filtered off, washed with water, and dried. Recrystallization of the solid from ethanol (1,200 ml) gave title compound as yellow needles, 13.5g (58.5%), m.p. 190°-191°, λmax. (EtOH) 226, 310 nm., (ε 11,500, 21,000), νmax. (Nujol) 1338 and 1502 (NO2), 972 cm.-1 (trans CH=CH), τ (CF3CO2H) values include 2.15, 2.68 (AB quartet, J 17; trans CH=CH), 7.15 (CH3).

reactant | p-nitrocinnamamidoxime | 20.7 g | [N+](=O)([O-])C1=CC=C(C=CC(N)=NO)C=C1 | C9H9N3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | trans-5-Methyl-3-p-nitrostyryl-1,2,4-oxadiazole | CC1=NC(=NO1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
